US07297795B2
A 500-mL round bottomed flask under N2 equipped with overhead stirrer, a Dean-Stark trap and condenser, thermocouple was charged with cyanoacetic acid (28.04 g, 0.33 mol), 3-chloro-4-fluoroaniline (40.0 g, 0.28 mol), 3-nitrophenylboronic acid (2.28 g, 0.014 mol) and toluene (200 mL). The mixture was heated to reflux and water collected in the Dean-Stark trap. After 5.5 hours, thin layer chromatography (TLC) indicated complete consumption of the aniline. The reaction mixture was cooled to room temperature (RT) forming a pink suspension. The solids were isolated by filtration, washed with MTBE (2×200 mL) and dried to afford (3-chloro-4-fluorophenyl)-2-cyanoacetamide as a pale pink solid (46.40 g, 79% yield, 96.7% by GC-MS). 1H NMR (300 MHz, DMSO-d6): 10.4 (s, 1H), 7.80 (d, J=8 Hz, 1H), 7.5-7.3 (m, 2H), 3.92 (s, 2H).

reactant | cyanoacetic acid | 0.33 mol, 28.04 g | C(#N)CC(=O)O | C3H3NO2
reactant | 3-chloro-4-fluoroaniline | 0.28 mol, 40.0 g | ClC=1C=C(N)C=CC1F | C6H5ClFN
reactant | 3-nitrophenylboronic acid | 0.014 mol, 2.28 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | (3-chloro-4-fluorophenyl)-2-cyanoacetamide | 79% yield | ClC=1C=C(C=CC1F)C(C(=O)N)C#N | C9H6ClFN2O
